US20010053779A1
Ethyl 3-ethoxy-3-iminopropionate, prepared as in Example 2(a), was reacted with 2-(3,4-diaminobenzyl)isoindole-1,3-dione under conditions similar to that set forth in Example 2(b) to provide ethyl 5-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-1H-benzoimidazol-2-ylacetate (71% yield); 1H-NMR (300 Mhz, DMSO-d6): 7.78-7.9 (m, 4H), 7.43-7.47 (m, 2H), 7.12 (d, 1H, J=9.43 Hz), 4.82 (s, 2H), 4.07 (q, 2H, J=7.2 Hz), 3.44 (s, 2H), 1.38 (t, 3H, J=7.2 Hz).

reactant | Ethyl 3-ethoxy-3-iminopropionate | C(C)OC(CC(=O)OCC)=N | C7H13NO3
reactant | 2-(3,4-diaminobenzyl)isoindole-1,3-dione | NC=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC1N | C15H13N3O2
product | ethyl 5-(1,3-dioxo-1,3-dihydroisoindol-2-ylmethyl)-1H-benzoimidazol-2-ylacetate | 71% yield | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC2=C(NC(=N2)CC(=O)OCC)C=C1 | C20H17N3O4
